US07858621B2
To a suspension of 6-chloro-pyridin-3-ol (1000 mg, 7.72 mmol) and bromoethyl acetate (1933 mg, 11.57 mmol) in CH3CN was added Cs2CO3 (3772 mg, 11.57 mmol). The mixture was stirred for overnight at room temperature. The reaction mixture was diluted with EtOAc, then washed three times with H2O and brine, and then dried. MgSO4, filtered and concentrated under reduced pressure. The obtained residue was column-chromatographed to yield the (6-chloro-pyridin-3-yloxy)-acetic acid ethyl ester (1.5 g, 90%).

reactant | 6-chloro-pyridin-3-ol | 7.72 mmol, 1000 mg | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | bromoethyl acetate | 11.57 mmol, 1933 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | Cs2CO3 | 11.57 mmol, 3772 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (6-chloro-pyridin-3-yloxy)-acetic acid ethyl ester | 1.5 g, 90% | C(C)OC(COC=1C=NC(=CC1)Cl)=O | C9H10ClNO3
